US08067457B2
N-(2-((3S,4S)-4-(allyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-ylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide (80)
To a solution of N-(2-((3S,4S)-4-hydroxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-ylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide (50 mg, 0.1 mmol) in DMF (1 mL), was added NaH (17 mg, 0.4 mmol) at 0° C. The mixture was stirred at 0° C. for 10 min., followed by addition of allyl bromide (0.011 mL, 0.13 mmol). The mixture was stirred at 0° C. for 30 min., and the organic phase was washed with water, dried over MgSO4, concentrated, and subjected to flash chromatography (EtOAc:MeOH:Et3N 9:1:0.1) to generate the title compound (6 mg, 10% yield). 1H-NMR (CDCl3) δ: 1.40-1.57 (m, 2H), 1.70-1.90 (m, 2H), 2.27-2.40 (m, 2H), 2.70-2.82 (m, 2H), 3.30-3.42 (m, 3H), 3.77-3.85 (m, 1H), 3.90-4.05 (m, 3H), 4.06-4.22 (m, 3H), 4.29-4.32 (m, 1H), 5.10-5.30 (m, 2H), 5.80-5.98 (m, 1H), 6.60 (d, J=8.1 Hz, 1H), 7.10 (s, 1H), 7.57 (t, J=8.1 Hz, 1H), 7.77 (d, J=7.2 Hz, 1H), 8.00 (d, J=5.4 Hz, 1H), 8.08 (s, 1H). MS m/z: 456 (M+1)

reactant | N-(2-((3S,4S)-4-hydroxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-ylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide | 0.1 mmol, 50 mg | O[C@@H]1[C@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C19H24F3N3O4
reactant | NaH | 0.4 mmol, 17 mg | [H-].[Na+]
reactant | allyl bromide | 0.13 mmol, 0.011 mL | C(C=C)Br | C3H5Br
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(2-((3S,4S)-4-(allyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-ylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide | 6 mg, 10% yield | C(C=C)O[C@@H]1[C@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C22H28F3N3O4
